US05854234
5-amino-2-imino-4-methylpiperidine dihydrochloride (cis and trans isomers)
The method of preparation of 5-amino-2-iminopiperidine hydrochloride was used to convert 2-amino-4-methyl-5-nitropyridine to the title compound. Product was obtained as a white solid, shown to be two isomers by 1H NMR analysis. Recrystallization from EtOH/H2O gave a white solid, shown to be one isomer (A) by 1H NMR and tentatively assigned the trans configuration. The mother liquor was concentrated in vacuo and redissolved in warm EtOH. Upon cooling, the first crop was obtained which contains more (A). The second crop contains a mixture of (A) and (B). The third crop is pure (B), which was tentatively assigned the cis configuration. The analysis of the product was found to be consistent with the proposed structure. 1H NMR (D2O) of (A): δ3.8-3.7 (m, 1H); 3.68-3.58 (m 1H); 3.50-3.40 (m, 1H); 2.90-2.75 (m, 1H); 2.45-2.35 (m, 2H); 1.00 (d, J=7 Hz, 3H). 1H NMR (D2O) of (B): δ3.75-3.65 (m, 1H); 3.45-3.25 (m, 2H); 2.85-2.70 (m, 1H); 2.50-2.35 (m, 1H); 2.20-2.15 (m, 1H); 1.05 (d, J=7 Hz, 3H).

reactant | 5-amino-2-iminopiperidine hydrochloride | Cl.NC1CCC(NC1)=N
reactant | 2-amino-4-methyl-5-nitropyridine | NC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H7N3O2
product | 5-amino-2-imino-4-methylpiperidine dihydrochloride | Cl.Cl.NC1C(CC(NC1)=N)C | InChI=1S/C6H13N3.2ClH/c1-4-2-6(8)9-3-5(4)7;;/h4-5H,2-3,7H2,1H3,(H2,8,9);2*1H
